US05250527
3,4 -dichloro-5 -methyl-2 -hydroxymethylpyridine (4 g) was dissolved in 33 % dimethylamine in ethanol (11 ml), placed in a sealed vessel and heated to 2000° C. for 4 hours. On cooling, the reaction mixture was evaporated under reduced presure and the residue dissolved in water (15 ml) and ether extracted. Etherial extracts were dried (K2CO3 ), filtered and stripped to yield 4 -dimethylamino-3 -chloro-5 -methyl-2 -hydroxymethylpyridine, 4.08 g as an oil.

reactant | 3,4 -dichloro-5 -methyl-2 -hydroxymethylpyridine | 4 g | ClC=1C(=NC=C(C1Cl)C)CO | C7H7Cl2NO
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | 4 -dimethylamino-3 -chloro-5 -methyl-2 -hydroxymethylpyridine | CN(C1=C(C(=NC=C1C)CO)Cl)C | C9H13ClN2O
